US06677368B2
4-(2,6-Difluoro-phenyl)-3-[1-[3-methyl-4-((S)-3-pyrrolidin-1-ylmethyl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[4-(2,6-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid (114 mg, 0.3 mmol) was coupled with (R)-3-pyrrolidin-1-ylmethyl-piperidine (99 mg, 2 eq.), HOBt (1 eq.), EDC (1.5 eq.) and TEA (3 drops) in THF (1 mL) and aceonitrile (1 mL) at rt for overnight to give 111.3 mg (70%) of the titled compound as a yellow solid.

reactant | 5-[4-(2,6-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4-methyl-1H-pyrrole-3-carboxylic acid | 0.3 mmol, 114 mg | FC1=C(C(=CC=C1)F)C1=C2/C(/C(NC2=CC=C1)=O)=C/C1=C(C(=CN1)C(=O)O)C | C21H14F2N2O3
reactant | (R)-3-pyrrolidin-1-ylmethyl-piperidine | 99 mg, 2 eq. | N1(CCCC1)C[C@H]1CNCCC1 | C10H20N2
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.5 eq.
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(2,6-Difluoro-phenyl)-3-[1-[3-methyl-4-((S)-3-pyrrolidin-1-ylmethyl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 111.3 mg, 70% | FC1=C(C(=CC=C1)F)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC=C(C1C)C(=O)N1C[C@@H](CCC1)CN1CCCC1 | C31H32F2N4O2
